US08470831B2
A solution (E)-3-(3-acetoxy-4-methoxy-phenyl)-acrylic acid (0.20 g, 0.76 mmol) and thionyl chloride (0.069 mL, 0.95 mmol) in dry THF (4 mL) was stirred at reflux temperature for 2.5 hrs. Then a further aliquot of thionyl chloride (0.008 mL, 0.11 mmol) was added and the mixture was stirred at reflux temperature for additional 5 hrs. After cooling to about 35° C., a solution of 4-chloro-3-(pyridin-4-ylmethoxy)-phenylamine (0.232 mg, 0.99 mmol) and diisopropylethylamine (0.54 mL, 3.04 mmol) in dry THF (0.5 mL) was added dropwise. After stirring at reflux temperature for 2 hrs, the reaction mixture was diluted with DCM and washed with water, aqueous sodium hydrogencarbonate, and brine. The organic layer was then dried over sodium sulphate and evaporated. The resulting raw material was purified by column chromatography over silica gel (eluant DCM/MeOH 98/2) to give 250 mg of the title (E)-N-[4-chloro-3-(pyridin-4-ylmethoxy)-phenyl]-3-(3-acetoxy-4-methoxy-phenyl)-acrylamide as a light brown solid.

reactant | (E)-3-(3-acetoxy-4-methoxy-phenyl)-acrylic acid | 0.76 mmol, 0.20 g | C(C)(=O)OC=1C=C(C=CC1OC)/C=C/C(=O)O | C12H12O5
reactant | thionyl chloride | 0.95 mmol, 0.069 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 0.11 mmol, 0.008 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloro-3-(pyridin-4-ylmethoxy)-phenylamine | 0.99 mmol, 0.232 mg | ClC1=C(C=C(C=C1)N)OCC1=CC=NC=C1 | C12H11ClN2O
reactant | diisopropylethylamine | 3.04 mmol, 0.54 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-N-[4-chloro-3-(pyridin-4-ylmethoxy)-phenyl]-3-(3-acetoxy-4-methoxy-phenyl)-acrylamide | 250 mg | ClC1=C(C=C(C=C1)NC(\C=C\C1=CC(=C(C=C1)OC)OC(C)=O)=O)OCC1=CC=NC=C1 | C24H21ClN2O5
